US05614544
A mixture of 5-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]cinnamylidene]-2,4-oxazolidinedione (1.02 g), palladium-carbon (5%, 0.5 g) and tetrahydrofuran (THF) (150 ml) was subjected to catalytic hydrogenation at 1 atm and room temperature. After the catalyst was filtered out, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. From the fraction eluted with chloroform-methanol (100:3), 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propyl]-2,4-oxazolidinedione (0.58 g, 56%) was obtained, which was then recrystallized from dichloromethane-methanol to yield colorless needles having a melting point of 184°-185° C.

reactant | 5-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]cinnamylidene]-2,4-oxazolidinedione | 1.02 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=CC=C2C(NC(O2)=O)=O)C=C1 | C25H20N2O5
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propyl]-2,4-oxazolidinedione | 0.58 g, 56% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H24N2O5
